US03934008
8. Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asn-Phe-NH-NH2
2.0 g of Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asn-Phe-OCH3 are dissolved in 150 ml of methanol and caused to react with 10.7 ml of hydrazine hydrate for 6 hours at room temperature. The precipitate is filtered off, washed with methanol, and dried in a high vacuum over concentrated sulfuric acid.

reactant | Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asn-Phe-OCH3 | 2.0 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C56H80N8O14
reactant | hydrazine hydrate | 10.7 ml | O.NN
solvent | methanol | 150 ml | CO | CH4O
product | Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asn-Phe-NH-NH2 | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C55H80N10O13
